US09023883B2
To a solution of ethyl 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carboxylate (85 g, 242.75 mmol, 1.00 equiv) in THF (300 mL) and methanol (300 mL) was added a solution of LiOH (17.5 g, 730.69 mmol, 3.01 equiv) in water (400 mL). The resulting solution was stirred at room temperature overnight and then concentrated under vacuum to remove the organic solvent. The resulting solution was diluted with 400 mL of H2O and then acidified to pH 6.0 with 1M hydrochloric acid. The mixture was extracted with 3×800 mL of dichloromethane. The combined organic layers was washed with 3×1000 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 75 g (96%) of 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carboxylic acid as an off-white solid. LCMS (method D, ESI): RT=1.23 min, m/z=323.0 [M+F1]+.

reactant | ethyl 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carboxylate | 242.75 mmol, 85 g, 1.00 equiv | IC1=NN(C=C1C(=O)OCC)C1OCCCC1 | C11H15IN2O3
reactant | LiOH | 730.69 mmol, 17.5 g, 3.01 equiv | [Li+].[OH-]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | methanol | 300 mL | CO | CH4O
solvent | water | 400 mL | O | H2O
product | 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carboxylic acid | 75 g, 96% | IC1=NN(C=C1C(=O)O)C1OCCCC1 | C9H11IN2O3
